US04379785
0.6 g of 4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfinic acid (crude product m.p. 113°-115° C., prepared by reaction of 4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfochloride with sodium sulfite) and 0.3 g of N-hydroxy-N'-butyl urea are dissolved in 50 ml of dioxan. 0.4 g of thionyl chloride in 10 ml of dioxan is added dropwise to this solution, and the batch is heated for 2 hours at 60° C. Subsequently, the solvent is evaporated under reduced pressure, water is added dropwise to the residue, the oily substance is separated and reprecipitated from ammonia. The N-(4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfonyl)-N'-butyl urea obtained has a melting point of 155°-157° C., and, with the substance obtained according to Example 8, shows no depression.

reactant | 4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfinic acid | 0.6 g | CC1CC(N(CC1)C(=O)NCCC1=CC=C(C=C1)S(=O)O)=O | C15H20N2O4S
reactant | N-hydroxy-N'-butyl urea | 0.3 g | ONC(=O)NCCCC | C5H12N2O2
reactant | thionyl chloride | 0.4 g | S(=O)(Cl)Cl | Cl2OS
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | N-(4-[2-(4-methyl-2-oxo-piperidine-1-carboxamido)-ethyl]-benzenesulfonyl)-N'-butyl urea | CC1CC(N(CC1)C(=O)NCCC1=CC=C(C=C1)S(=O)(=O)NC(=O)NCCCC)=O | C20H30N4O5S
